Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with PMHx CAD with CABG in ___, HTN, bipolar 
affective disorder, depression, breast CA, SZ disorder, PE in 
___ and multiple falls who presents today s/p fall. Pt presents 
via EMS with report of witnessed slip and fall while walking 
down street. Struck right shoulder not head. Per patient, he 
denies fall today and doesn't recal how he got the laceration on 
his face. He said he woke up that way. He thinks the amublance 
picked him up because of shortness of breath. Of note patient 
was recently admitted ___ ___s well. Patient 
endorses a fall last week. Denies head, neck, or back pain. Per 
ED attg, attempted to place when admitted that last admission 
but patient refused placement.  
.  
In the ED, initial vitals were 97.3 93 156/87 20 99 RA. FSBS 
196. Denies lightheaded or dizziness. Denies any complaints. 
Imaging showed subacute right rib fx with tenderness. Xiphoid 
trauma evidence of CPR prior. Comfortable. Confused when came 
in, lucid now. Has lip smacking chronic. 4 cm lac repaired with 
5 sutures. 97.3 93 156/87 20 99%RA prior to coming in ED.  
.  
On the floor, pt admits to unsteady gait recently. He endorses 
right sided pain in side corresponding to where rib fractures 
are. Endorses thirst but says he is eating and drinking well at 
home. Says he can do all ADLs on own but doesnt recall names of 
medications. Denies actual seizure activity or bowel or bladder 
incontinence. Although wonders if some of his lacerations could 
be explained by seizures. Denies recent weight loss although eye 
appears sunken. Told nursing that he has had diarrhea for 1 
week. Does not use any assistive devices for walking.  

 
Past Medical History:
1. Coronary artery disease s/p CABG surgery in ___ after an MI 
at ___  
2. Bipolar affective disorder, per patient in remission.  
3. Depression, treated with ECT at ___.  
4. Breast cancer on the left side s/p resection.  
5. Seizure disorder, described as "loss of awareness" by 
patient. Last seziure ___ years ago.  
6. h/o Pulmonary edema related to Tamoxifen, per patient.  
7. Thyroid nodule.  
8. Pulmonary embolism in ___.  
9. Cataracts, b/l.  
10. Rotator cuff tear s/p surgery.  
11. s/p ccy  

 
Social History:
___
Family History:
No h/o heart disease, seizures. Family history of breast cancer. 

 
Physical Exam:
VS: T=98.9, BP=128/74, HR=66, RR=24, O2 sat= 98% on RA  
GENERAL: Thin frail man with lip smaking in NAD. Oriented x3. 
Mood, affect flat.  
HEENT: NC. Raccoon eyes bilateally with 3 lacs across forehead. 
Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple with JVP flat. No LAD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4. TTP along right lower rib cage.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
Neuro: AAOx3, strength ___ throughout, sensation intact to light 
touch, CN2-12 intact grossly, gait deferred  
 
Pertinent Results:
___ 06:22AM BLOOD WBC-10.2 RBC-4.03* Hgb-12.6* Hct-38.1* 
MCV-94 MCH-31.2 MCHC-33.0 RDW-13.3 Plt ___
___ 05:20PM BLOOD Neuts-79.1* Lymphs-11.7* Monos-6.9 
Eos-1.6 Baso-0.7
___ 06:22AM BLOOD Glucose-106* UreaN-20 Creat-1.3* Na-137 
K-4.3 Cl-106 HCO3-23 AnGap-12
___ 06:22AM BLOOD CK-MB-10 MB Indx-1.9 cTropnT-<0.01
___ 05:20PM BLOOD cTropnT-<0.01

CT Cspine - No fracture or malalignment identified

CTAP -
1. Evidence of L1 through L4 left-sided transverse process 
fractures, and L2 spinous process fracture, with callus evident, 
suggesting that these are subacute. 
2. Multiple right sided rib and xiphoid process fractures, 
acuity unknown.  Correlate with clinical exam and mechansim of 
injury. 
3. No intra-abdominal acute process. 

CTH:
1. No intracranial hemorrhage.   
2. Soft tissue swelling with a locule of air in the right 
frontal scalp, may reflect residua of a previously seen 
subgaleal hematoma, with superimposed laceration. Correlate with 
clinical exam. 
3. Stable radiopaque foreign body in the superior aspect of the 
right orbit. 

 
Brief Hospital Course:
___ yo male with PMHx CAD s/p CABG in ___, HTN, bipolar 
affective disorder, depression, breast CA, Sz disorder, PE in 
___ and multiple falls who presents today s/p fall.  

1. S/p fall: Patient has had multiple falls with multiple 
subacute fractures in the past year. In the past he has refused 
placement but seems more agreeable to it at this point. Given Cr 
elevation and h/o diarrhea, orthostatic VS were checked and WNL. 
B12 and TSH were normal on last admission 2 weeks ago. 
Urinalysis negative, CTH, CT spine, and CTAP negative.  Patient 
was evaluated by ___, and rehab was recommended.  He had numerous 
soft tissue including facial injuries, and received 
acetaminophen and lidoderm patches.

2. CAD: New STD on ant-lateral leads without h/o chest pain or 
ACS symptoms. Troponin negative x 2. Patient was continued on 
metoprolol, lipitor, and aspirin.

3. Hyponatremia: Resolved with IVF. 

4. ARF: Baseline Cr ___. Creatinine on presentation 1.6 down 
to 1.3 after IVF, suggesting pre-renal azotemia

5. Bipolar disorder: Patient continued on duloxetine.

Code: Full code (confirmed with patient)  
Communication: Patient and wife ___, ___ who is 
patient's HCP. They are separated but patient states that it is 
okay to speak with her and involve her in his medical decision 
making.
Prophylaxis: Patient received heparin products during admission.
 
Medications on Admission:
-Lipitor 20 mg Tab1 (One) Tablet(s) by mouth once a day  
-Cymbalta 30 mg Cap 2 Capsule(s) by mouth once a day  
-Ergocalciferol (Vitamin D2) 400 unit Cap 1 (One) Capsule(s) by 
mouth once a day  
-Aspirin Low Dose 81 mg Tab, Delayed Release 1 (One) Tablet(s) 
by mouth once a day  
-Loperamide 2 mg Cap 1 to 2 Capsule(s) by mouth once a day as 
needed for diarrhea  
-Daily-Vite Tab 1 (One) Tablet(s) by mouth once a day  
-Metoprolol Succinate ER 25 mg 24 hr Tab 1 (One) Tablet(s) by 
mouth once a day  
 
Discharge Medications:
1. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
6. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours).  
8. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily) as 
needed for right ribs.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
1. Fall

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. You were admitted for a fall. You have had many falls, and 
you were seen by Physical Therapy and will need Rehab.

2. You should continue all of your home medications as 
prescribed.

3. It is very important that you keep your doctors ___.
 
Followup Instructions:
___